US09216980B2
Step 2: Trifluoromethanesulfonic acid 3,5-dichloro-4-piperidin-1-ylmethylphenyl ester
To a stirred solution of 3,5-dichloro-4-piperidin-1-ylmethylphenol (290 mg, 1.1 mmol) and pyridine (0.36 mL, 4.5 mmol) in DCM (10 mL) at −20° C. was added trifluoromethanesulfonyl chloride (0.38 mL, 2.2 mmol). After the addition was complete the reaction was allowed to warm to ambient temperature and stirred for 10 minutes. The mixture was diluted with DCM (20 mL), washed with water (10 mL). The organic phase was separated, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 12 g column, ISCO, 0-100% ethyl acetate in cyclohexane) to afford the title compound as a colourless oil (334 mg, 76%). 1H NMR (CDCl3, 300 MHz): 7.26 (s, 2H), 3.66 (s, 2H), 2.53-2.44 (m, 4H), 1.58-1.48 (m, 4H), 1.50-1.34 (m, 2H).

reactant | 3,5-dichloro-4-piperidin-1-ylmethylphenol | 1.1 mmol, 290 mg | ClC=1C=C(C=C(C1CN1CCCCC1)Cl)O | C12H15Cl2NO
reactant | pyridine | 4.5 mmol, 0.36 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonyl chloride | 2.2 mmol, 0.38 mL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 3,5-dichloro-4-piperidin-1-ylmethylphenyl ester | 334 mg, 76% | ClC=1C=C(C=C(C1CN1CCCCC1)Cl)OS(=O)(=O)C(F)(F)F | C13H14Cl2F3NO3S
